* Extracted by KLayout with SG13G2 LVS runset on : 18/01/2026 22:32

.SUBCKT or_x3_custom VSS VDD A B C OUT
X$1 VDD VSS C B A \$3 nor_x3_custom
X$2 VDD \$3 VSS OUT inv
.ENDS or_x3_custom

.SUBCKT inv VDD VIN VSS VOUT
M$1 VSS VIN VOUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$2 VDD VIN VOUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
.ENDS inv

.SUBCKT nor_x3_custom VDD VSS C B A OUT
M$1 VSS A OUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$2 OUT B VSS VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.0555p PS=0.74u
+ PD=0.74u
M$3 VSS C OUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
M$4 VDD A \$13 VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$5 \$13 B \$12 VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0555p AD=0.0555p PS=0.74u
+ PD=0.74u
M$6 \$12 C OUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
.ENDS nor_x3_custom
